US04596858
Preparation of N,N-di-(n-butyl)acrylamide (DNBAM)
In a 2 liter 3-necked flask were combined 129 g (1 mol) di-(n-butyl)amine (Fisher Scientific) and 0.1 l dry toluene and cooled to 5° C. 46 g (0.5 mol) acryloyl chloride dissolved in 50 ml toluene were added slowly so the temperature remained below 10° C. After the addition the flask was warmed to 25° C. and the precipitate removed by filtration. 1 g DNPD was added, and after concentration on a rotary evaporator the product was distilled at 20 m torr and 61°-63° C. Yield 77 g (84%).

reactant | di-(n-butyl)amine | 1 mol, 129 g | C(CCC)NCCCC | C8H19N
reactant | acryloyl chloride | 0.5 mol, 46 g | C(C=C)(=O)Cl | C3H3ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.1 l | C1(=CC=CC=C1)C | C7H8
product | N,N-di-(n-butyl)acrylamide | C(CCC)N(C(C=C)=O)CCCC | C11H21NO
